US05554615
Preparation of t-butyl 4-(2-(2-cyano-1-cyclopentanon-3-yl)ethyl]benzoate
A solution of the 2-cyano-2-cyclopenten-1-one (2.41 g, 22.5 mmol) prepared in the Preparative Example 101 in anhydrous benzene and a solution of azobisisobutyronitrile (AIBN) (0.05 g, a catalytic amount) and tri-n-butyltin hydride (3.62 g, 12.4 mmol) in anhydrous benzene were simultaneously gradually dropped into a solution of t-butyl 4-(2-bromoethyl)benzoate (3.21 g, 11.3 mmol) prepared in the Preparative Example 104 in anhydrous benzene under reflux by heating. The obtained mixture was heated under reflux for about 20 minutes and distilled to remove the solvent. The residue was purified by silica gel column chromatography to give the objective compound. yield: 0.43 g

reactant | 2-cyano-2-cyclopenten-1-one | 22.5 mmol, 2.41 g | C(#N)C=1C(CCC1)=O | C6H5NO
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tri-n-butyltin hydride | 12.4 mmol, 3.62 g | C(CCC)[SnH](CCCC)CCCC
reactant | t-butyl 4-(2-bromoethyl)benzoate | 11.3 mmol, 3.21 g | BrCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H17BrO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | t-butyl 4-(2-(2-cyano-1-cyclopentanon-3-yl)ethyl]benzoate | C(#N)C1C(CCC1CCC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C19H23NO3
